USH0000642
(b) (R)-3-Amino-2-[[(benzyloxy)carbonyl]amino]propanoic acid
[Bis(trifluoroacetoxy)iodo]benzene (6.45 g., 15.0 mmole) is dissolved in water-dimethylformamide 1:1 (80 ml.) and (R)-4-amino-2-[[(benzyloxy)carbonyl]amino]-4-oxobutanoic acid (2.4 g., 9.0 mmole) is added over a 10 minute period. The reaction is allowed to stir at room temperature for 30 minutes, until dissolution occurs. Pyridine (1.62 ml., 20 mmole) is added dropwise over a 5 minute period. The reaction is allowed to stir for 3 hours then stripped of solvent to yield a yellow precipitate. This semi-solid is triturated with a combination of isopropanol:ethyl ether. The precipitate is filtered and dried over phosphorus pentoxide to yield 1.35 g. of (R)-3-amino-2-[[(benzoyloxy)carbonyl]amino]propanoic acid as a white solid.

reactant | [Bis(trifluoroacetoxy)iodo]benzene | 15.0 mmole, 6.45 g | FC(C(=O)OI(OC(C(F)(F)F)=O)C1=CC=CC=C1)(F)F | C10H5F6IO4
reactant | (R)-4-amino-2-[[(benzyloxy)carbonyl]amino]-4-oxobutanoic acid | 9.0 mmole, 2.4 g | NC(C[C@H](C(=O)O)NC(=O)OCC1=CC=CC=C1)=O | C12H14N2O5
reactant | Pyridine | 20 mmole, 1.62 ml | N1=CC=CC=C1 | C5H5N
reactant | (R)-3-amino-2-[[(benzoyloxy)carbonyl]amino]propanoic acid | NC[C@H](C(=O)O)NC(=O)OC(C1=CC=CC=C1)=O | C11H12N2O5
solvent | water dimethylformamide | 80 ml | O.CN(C=O)C
product | (R)-3-Amino-2-[[(benzyloxy)carbonyl]amino]propanoic acid | NC[C@H](C(=O)O)NC(=O)OCC1=CC=CC=C1 | C11H14N2O4
